US08703784B2
Step 3: Preparation of tert-butyl 7-(7-(bis((2-(trimethylsilyl)ethoxy)methyl)amino)pyrazolo[1,5-a]pyrimidin-5-yl)-3-oxa-9-azabicyclo[3.3.1]non-6-ene-9-carboxylate
A solution of 5-chloro-N,N-bis((2-(trimethylsilyl)ethoxy)methyl)pyrazolo[1,5-a]pyrimidin-7-amine (1.01 g, 2.35 mmol) in DME (18 mL) was treated with boronate tert-butyl 7-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-3-oxa-9-azabicyclo[3.3.1]non-6-ene-9-carboxylate (910 mg, 2.59 mmol), Pd(dppf)Cl2.CH2Cl2 (191 mg, 0.24 mmol), 2M aqueous Na2CO3 (9.1 mL) under argon and heated at 100° C. for 16 h. Upon cooling, water (50 mL) and ethyl acetate (70 mL) was added. Two layers were separated and organic layer was collected. Aqueous layer was then extracted with ethyl acetate (2×70 mL). Combined organic layer was washed with brine (1×150 mL), dried (Na2SO4) and evaporated under reduced pressure to give crude material which was purified by column chromatography (0-40% hexane-ethyl acetate) to provide the desired product tert-butyl 7-(7-(bis((2-(trimethylsilyl)ethoxy)methyl)amino)pyrazolo[1,5-a]pyrimidin-5-yl)-3-oxa-9-azabicyclo[3.3.1]non-6-ene-9-carboxylate (1.27 g). HPLC-MS tR=3.09 min (UV254 nm). Mass calculated for formula C30H51N5O5Si2 617.3; observed MH+ (LCMS) 618.2 (m/z).

reactant | 5-chloro-N,N-bis((2-(trimethylsilyl)ethoxy)methyl)pyrazolo[1,5-a]pyrimidin-7-amine | 2.35 mmol, 1.01 g | ClC1=NC=2N(C(=C1)N(COCC[Si](C)(C)C)COCC[Si](C)(C)C)N=CC2 | C18H33ClN4O2Si2
reactant | boronate tert-butyl 7-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-3-oxa-9-azabicyclo[3.3.1]non-6-ene-9-carboxylate | 2.59 mmol, 910 mg | CC1(OB(OC1(C)C)C1=CC2COCC(C1)N2C(=O)OC(C)(C)C)C.B(O)O
reactant | CH2Cl2 | 0.24 mmol, 191 mg | C(Cl)Cl | CH2Cl2
reactant | Na2CO3 | 2M, 9.1 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | DME | 18 mL | COCCOC | C4H10O2
catalyst | Pd(dppf)Cl2 | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | ethyl acetate | 70 mL | C(C)(=O)OCC | C4H8O2
solvent | water | 50 mL | O | H2O
product | tert-butyl 7-(7-(bis((2-(trimethylsilyl)ethoxy)methyl)amino)pyrazolo[1,5-a]pyrimidin-5-yl)-3-oxa-9-azabicyclo[3.3.1]non-6-ene-9-carboxylate | 1.27 g | C[Si](CCOCN(C1=CC(=NC=2N1N=CC2)C2=CC1COCC(C2)N1C(=O)OC(C)(C)C)COCC[Si](C)(C)C)(C)C | C30H51N5O5Si2
